US06303742B1
34.8 g (0.075 mole) of 1,3-bis(4-nitrophenoxy)-2-propyl cinnamate, 15 g of carbon black containing 5% Pt and 2% iron (product with water content of approximately 50%), and 300 ml of 1,4-dioxane were placed in a reaction vessel (hydrogenating apparatus). And stirring was conducted by heating at 60° C. under a hydrogen atmosphere. In approximately 8 hours, 10.8 L of hydrogen was absorbed and the reaction was completed when the absorption of hydrogen stopped. Then the reacted solution was separated by filtration for removing the catalyst and the filtrate was concentrated. 30.3 g of 1,3-bis(4-aminophenoxy)-2-propyl cinnamate was yielded. The exothermic peak temperature was 230° C.

reactant | 1,3-bis(4-nitrophenoxy)-2-propyl cinnamate | 0.075 mole, 34.8 g | C(C=CC1=CC=CC=C1)(=O)OC(COC1=CC=C(C=C1)[N+](=O)[O-])COC1=CC=C(C=C1)[N+](=O)[O-] | C24H20N2O8
reactant | carbon black | 15 g | C | CH4
catalyst | iron | [Fe] | Fe
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 1,3-bis(4-aminophenoxy)-2-propyl cinnamate | 30.3 g | C(C=CC1=CC=CC=C1)(=O)OC(COC1=CC=C(C=C1)N)COC1=CC=C(C=C1)N | C24H24N2O4
